US09278968B2
To a mixture of 200 mg of 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid, 6 ml of dichloromethane, and one droplet of DMF was added 110 μl of oxalyl chloride under ice-cooling, followed by stirring at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and to the obtained residue were added 10 ml of THF, 300 μl of diisopropylethylamine, and a solution of 170 mg of 1-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)phenyl]methanamine in 5 ml of THF under ice-cooling, followed by stirring at room temperature for 24 hours. To the reaction mixture was added water, followed by extraction with ethyl acetate. The organic layer was washed with a 10% aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate solution, water, and a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, and the solvent was then evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 278 mg of 8-[(2,6-difluorobenzyl)oxy]-N-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)benzyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2-methylimidazo[1,2-a]pyridine-3-carboxylic acid | 200 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C16H12F2N2O3
reactant | dichloromethane | 6 ml | ClCCl | CH2Cl2
reactant | oxalyl chloride | 110 μl | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | CN(C)C=O | C3H7NO
product | 8-[(2,6-difluorobenzyl)oxy]-N-[2-(2,2-dimethyl-1,3-dioxolan-4-yl)benzyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 278 mg | FC1=C(COC=2C=3N(C=CC2)C(=C(N3)C)C(=O)NCC3=C(C=CC=C3)C3OC(OC3)(C)C)C(=CC=C1)F | C28H27F2N3O4
